US05455260
Ethanolamine hydrochloride (9.9 g; 100 mmol) is partially dissolved in CH2Cl2 /CH3CN (200 ml/100 ml) and Et3N (23 ml; 170 mmol) is then added. Tritylchloride (18.9 g; 67.6 mmol) is added portionwise over 30 minutes. After the addition is complete the reaction mixture is allowed to stir an additional 30 minutes, diluted with CH2Cl2, washed With H2O 2× and brine, dried (MgSO4), concentrated in vacuo and purified by column chromatography with silica/CH2Cl2 to give N-tritylethanolamine as an oil which is used directly in Step B.

reactant | Ethanolamine hydrochloride | 100 mmol, 9.9 g | Cl.C(O)CN
reactant | Et3N | 170 mmol, 23 ml | CCN(CC)CC | C6H15N
reactant | Tritylchloride | 67.6 mmol, 18.9 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | CH2Cl2 CH3CN | 200 ml | C(Cl)Cl.CC#N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-tritylethanolamine | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCCO | C21H21NO
